US08022062B2
2-Isobuty-benzothiazole-5-carbonitrile:
Heat 2-bromo-benzothiazole-5-carbonitrile (0.3 g, 1.26 mmol) in 1-methyl-pyrrolidinone (4.2 mL) with 2-methylpropylzinc bromide (5 mL, 2.5 mmol, 0.5M solution in THF), N-methylimidazole (0.15 g, 1.88 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (20.5 mg, 0.025 mmol) at 80° C. for 3 h. Cool the mixture and partition between diethyl ether and brine. Dry the organic layer over Na2SO4 and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane/EtOAc (1:0 to 1:1 gradient) to give the desired intermediate (113 mg, 42%). MS (EI) m/z: 216 (M+).

reactant | 2-bromo-benzothiazole-5-carbonitrile | 1.26 mmol, 0.3 g | BrC=1SC2=C(N1)C=C(C=C2)C#N | C8H3BrN2S
reactant | 2-methylpropylzinc bromide | 2.5 mmol, 0.5M, 5 mL | [Br-].CC(C[Zn+])C
reactant | N-methylimidazole | 1.88 mmol, 0.15 g | CN1C=NC=C1 | C4H6N2
reactant | dichloromethane | 0.025 mmol, 20.5 mg | ClCCl | CH2Cl2
solvent | 1-methyl-pyrrolidinone | 4.2 mL | CN1C(CCC1)=O | C5H9NO
product | 2-Isobuty-benzothiazole-5-carbonitrile | 113 mg, 42% | C(C(C)C)C=1SC2=C(N1)C=C(C=C2)C#N | C12H12N2S
